US04883917
In a reaction flask was placed 12.4 grams of epibromohydrin, 18.73 grams of dodecyldimethyl amine and 21.34 grams of para-dioxane solvent. This was stirred and heated under nitrogen to reflux (ca. 90° C.). After 6 hours at reflux the mixture was cooled. Solvent removed under vacuum to afford product, dodecyl dimethyl (2,3-epoxypropyl) ammonium bromide as a clear gel.

reactant | epibromohydrin | 12.4 grams | C(Br)C1CO1 | C3H5BrO
reactant | dodecyldimethyl amine | 18.73 grams | C(CCCCCCCCCCC)N(C)C | C14H31N
solvent | para-dioxane | 21.34 grams | O1CCOCC1 | C4H8O2
product | dodecyl dimethyl (2,3-epoxypropyl) ammonium bromide | [Br-].C(CCCCCCCCCCC)[N+](CC1CO1)(C)C | InChI=1S/C17H36NO.BrH/c1-4-5-6-7-8-9-10-11-12-13-14-18(2,3)15-17-16-19-17;/h17H,4-16H2,1-3H3;1H/q+1;/p-1
